US07547696B2
a.) 2-Nitro-5-(4-benzylpiperazin-1-yl)benzoic acid
The mixture of 20 g of 2-nitro-5-chlorobenzoic acid and 50 mL of N-benzylpiperazine is stirred at 120° C. for 6 hours. To the reaction mixture 250 mL of ethyl acetate is added. The precipitated yellow crystalline material is filtered off, dissolved in 200 mL of water. The pH of the mixture is adjusted to 6 with acetic acid. The precipitated material is filtered off, washed with water and dried, to obtain 30 g of the title compound. M.p.: 172° C.

reactant | 2-nitro-5-chlorobenzoic acid | 20 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)Cl | C7H4ClNO4
reactant | N-benzylpiperazine | 50 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-Nitro-5-(4-benzylpiperazin-1-yl)benzoic acid | 30 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1 | C18H19N3O4
